US07579417B2
b) 2-Bromo-7-methylnaphthalene
Suspension of 2,7-dibromonaphthalene (61.4 g, 0.21 mole) in ether (400 ml) was cooled to −30° C., and n-BuLi (1.6M in hexane, 135 ml, 0.21 mole) was added. Reaction mixture was allowed to warm to room temperature, stirred for additional 2.5 h, cooled to −30° C., and CH3I (13.5 ml, 0.21 mole) was added. Reaction mixture was allowed to warm to room temperature, stirred for additional 16 h, treated by water (100 ml). Organic layer was separated, water layer was extracted by ether (6×100 ml). Combined organic fraction was evaporated, giving practically pure solid product. The yield 38.1 g (82%).

reactant | 2,7-dibromonaphthalene | 0.21 mole, 61.4 g | BrC1=CC2=CC(=CC=C2C=C1)Br | C10H6Br2
reactant | n-BuLi | 0.21 mole, 1.6M, 135 ml | [Li]CCCC
reactant | CH3I | 0.21 mole, 13.5 ml | CI | CH3I
reactant | water | 100 ml | O | H2O
solvent | ether | 400 ml | CCOCC | C4H10O
product | 2-Bromo-7-methylnaphthalene | BrC1=CC2=CC(=CC=C2C=C1)C | C11H9Br
